US04067903
N-ethyl-N-butyl-aniline
182 parts of N-ethylaniline, 150 parts of n-butanol and 10 parts of triphenyl phosphite are heated for 20 hours at 230° C in a stirred autoclave. The autoclave is then let down and the water of reaction formed, unconverted ethylaniline and excess alcohol are distilled off. 183 parts of N-ethyl-N-butyl-aniline, corresponding to a yield of 69% of theory, distil at a boiling point of 88° - 91° C/5 mm Hg.

reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
reactant | n-butanol | C(CCC)O | C4H10O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | water | O | H2O
product | N-ethyl-N-butyl-aniline | yield of 69% | C(C)N(C1=CC=CC=C1)CCCC | C12H19N
